US09126950B2
To a solution of tert-butyl (2-(benzyloxy)-5-nitrophenyl)carbamate (1.0 g) in DCM (10 mL), cooled to 0° C., was added trifluoroacetic acid (5.0 mL). The reaction mixture was stirred at 0° C. for 15 minutes and then at room temperature for 30 minutes. The reaction was monitored by TLC using hexane:ethyl acetate (3:7) as mobile phase. After completion, the reaction mixture was quenched in water and neutralized with sodium bicarbonate. Product was extracted into DCM. The organic layer was washed with brine, dried over sodium sulfate and concentrated completely under reduce pressure at 40° C. Crude material was purified by trituration with diethyl ether to give 0.7 g of 2-(benzyloxy)-5-nitroaniline. 1H NMR: DMSO-d6 (400 MHz): 5.26 (s, 2H), 5.44 (s, 2H), 7.04 (d, 1H, J=8.8), 7.34 (m, 1H), 7.45 (m, 3H), 7.50 (s, 1H), 7.520 (d, 2H, J=2.8).

reactant | tert-butyl (2-(benzyloxy)-5-nitrophenyl)carbamate | 1.0 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])NC(OC(C)(C)C)=O | C18H20N2O5
reactant | trifluoroacetic acid | 5.0 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-(benzyloxy)-5-nitroaniline | 0.7 g | C(C1=CC=CC=C1)OC1=C(N)C=C(C=C1)[N+](=O)[O-] | C13H12N2O3
